US08134001B2
In a manner similar to the method described in example 94b, cis-4-(tert-buyl-dimethyl-silanyloxy)-cyclohexanol (2.7 g, 12 mmol) was reacted with methyl 5-chloro-2-hydroxybenzoate (1.77 g, 9.5 mmol) and diisopropyl azodicarboxylate, triphenylphosphine in tetrahydrofuran to give trans-2-[4-(tert-butyl-dimethyl-silanyloxy)-cyclohexyloxy]-5-chloro-benzoic acid methyl ester as a yellow oil (Yield 2.7 g, 71%).

reactant | cis-4-(tert-buyl-dimethyl-silanyloxy)-cyclohexanol | 12 mmol, 2.7 g | C(C)(C)(C)[Si](O[C@H]1CC[C@H](CC1)O)(C)C | C12H26O2Si
reactant | methyl 5-chloro-2-hydroxybenzoate | 9.5 mmol, 1.77 g | ClC=1C=CC(=C(C(=O)OC)C1)O | C8H7ClO3
reactant | diisopropyl azodicarboxylate | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
reactant | triphenylphosphine | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | trans-2-[4-(tert-butyl-dimethyl-silanyloxy)-cyclohexyloxy]-5-chloro-benzoic acid methyl ester | Yield 2.7 g, 71% | COC(C1=C(C=CC(=C1)Cl)O[C@@H]1CC[C@H](CC1)O[Si](C)(C)C(C)(C)C)=O | C20H31ClO4Si
